US08609688B2
Synthesis of N-[1-(3-bromophenyl)piperidin-4-yl]-N-methylacetamide
A solution of N-[1-(3-bromophenyl)-4-piperidyl]acetamide (11.6 g, 39.2 mmol) in THF (392 mL) was added to sodium hydride (6.84 g, 55% in mineral oil, 157 mmol) portionwise at 0° C. and stirred at room temperature for 10 minutes under nitrogen. The reaction mixture was added to iodomethane (7.32 mL, 118 mmol) at 0° C. and stirred at room temperature for 6 hours. The mixture was slowly quenched with water at 0° C. and extracted with EtOAc. The organic layer was washed with brine, dried over Na2SO4 and filtered through a Celite pad. The combined filtrate and washings were concentrated. The residue was purified by silica gel column chromatography (hexane/AcOEt=80:20→0:100) to afford desired product (12.6 g, quant.) as brown oil.

reactant | N-[1-(3-bromophenyl)-4-piperidyl]acetamide | 39.2 mmol, 11.6 g | BrC=1C=C(C=CC1)N1CCC(CC1)NC(C)=O | C13H17BrN2O
reactant | sodium hydride | 157 mmol, 6.84 g | [H-].[Na+]
reactant | iodomethane | 118 mmol, 7.32 mL | IC | CH3I
solvent | THF | 392 mL | C1CCOC1 | C4H8O
product | N-[1-(3-bromophenyl)piperidin-4-yl]-N-methylacetamide | 12.6 g | BrC=1C=C(C=CC1)N1CCC(CC1)N(C(C)=O)C | C14H19BrN2O
